US06222034B1
i) 3,4,5,6,7,8-Hexahydro-3-(2-chloro)ethyl-7-methylpyrido[4′,3′:4,5]thieno[2,3-d]pyrimidin-4-one
42.0 g (158 mmol) of 3,4,5,6,7,8-hexahydro-3-(2-hydroxy)ethyl-7-methylpyrido[4′,3′:4,5]thieno[2,3-d]pyrimidin-4-one in 240 ml of 1,2-dichloroethane was heated to reflux and then 12.7 ml (175 mmol) of thionyl chloride in 20 ml of 1,2-dichloroethane were added dropwise. After rafluxing for 2 h, the mixture was allowed to cool and was poured into ice/water. After partitioning between methylene chloride and water at pH=10, the aqueous phase was back-extracted with methylene chloride. The combined organic phases were dried and concentrated. The crude product (40 g) was recrystallized from 400 ml of isopropanol. 30.5 g (68%) of product with melting point 159-161° C. were isolated.

reactant | 3,4,5,6,7,8-hexahydro-3-(2-hydroxy)ethyl-7-methylpyrido[4′,3′:4,5]thieno[2,3-d]pyrimidin-4-one | 158 mmol, 42.0 g | OCCN1C=NC2=C(C1=O)C1=C(S2)CN(CC1)C | C12H15N3O2S
reactant | thionyl chloride | 175 mmol, 12.7 ml | S(=O)(Cl)Cl | Cl2OS
solvent | 1,2-dichloroethane | 240 ml | ClCCCl | C2H4Cl2
solvent | 1,2-dichloroethane | 20 ml | ClCCCl | C2H4Cl2
product | 3,4,5,6,7,8-Hexahydro-3-(2-chloro)ethyl-7-methylpyrido[4′,3′:4,5]thieno[2,3-d]pyrimidin-4-one | 30.5 g, 68% | ClCCN1C=NC2=C(C1=O)C1=C(S2)CN(CC1)C | C12H14ClN3OS
